US07560551B2
To phenylboronic acid (0.030 g, 0.24 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (0.0060 g, 0.0081 mmol) and 4-chloro-5,8-difluoro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine (0.080 g, 0.16 mmol) was added dioxane (0.35 mL) and sodium carbonate (2.0 M, aqueous)(0.16 ml, 0.33 mmol). The resulting mixture was heated to 85° C. in a sealed tube for 60 minutes. The reaction was diluted with EtOAc and water, and the layers were separated and the organic layers were dried over sodium sulfate, filtered and concentrated. The crude was purified by ISCO silica gel chromatography (20-100% EtOAc/hexanes; 40 g column). Concentrated product fractions to yield 5,8-difluoro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-4-phenylphthalazin-1-amine as an off-white solid. MS m/z=534 [N+H]+. Calc'd for C30H21F2N7O: 533.54.

reactant | phenylboronic acid | 0.24 mmol, 0.030 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 4-chloro-5,8-difluoro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine | 0.16 mmol, 0.080 g | ClC1=NN=C(C2=C(C=CC(=C12)F)F)NC1=CC=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C24H16ClF2N7O
reactant | dioxane | 0.35 mL | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 0.33 mmol, 2.0 M, 0.16 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 0.0081 mmol, 0.0060 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5,8-difluoro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-4-phenylphthalazin-1-amine | FC1=C2C(=NN=C(C2=C(C=C1)F)NC1=CC=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC)C1=CC=CC=C1 | C30H21F2N7O
